US08134007B2
2-Bromo-4-methoxy-1-trifluoromethoxy-benzene
To a stirred suspension of 3-Bromo-4-trifluoromethoxy-phenol (20.0 g, 82.6 mol) and potassium carbonate (46.3 g, 330.4 mmol) in acetone (600 ml) was added drop-wise iodomethane (46.9 g, 330.4 mmol) under an atmosphere of nitrogen. The resulting mixture was stirred at reflux for 2 hours. The reaction mixture was cooled to room temperature then filtered and the filtrate was evaporated in vacuo to afford the title compound as a colourless oil (19.8 g, 93%).

reactant | 3-Bromo-4-trifluoromethoxy-phenol | 82.6 mol, 20.0 g | BrC=1C=C(C=CC1OC(F)(F)F)O | C7H4BrF3O2
reactant | potassium carbonate | 330.4 mmol, 46.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 330.4 mmol, 46.9 g | IC | CH3I
solvent | acetone | 600 ml | CC(=O)C | C3H6O
product | 2-Bromo-4-methoxy-1-trifluoromethoxy-benzene | 19.8 g, 93% | BrC1=C(C=CC(=C1)OC)OC(F)(F)F | C8H6BrF3O2
